US05187188
(E) and (Z)-Ethyl α-[[3-[[(1,1-dimethylethoxy) carbonyl]methoxyl]phenyl]methylene]-4,5-diphenyl-2-oxazoleacetate (7a)
A mixture of ethyl 4,5-diphenyl-2-oxazoleacetate (25.00 g, 81 mmol), 1,1-dimethylethyl(3-formylphenoxy)acetate (19.22 g, 81 mmol), piperidine (0.69 g, 8 mmol), p-toluenesulfonic acid (catalytic quantity) and toluene (200 mL) was heated at reflux under a Dean-Stark trap. After about 18 hours, the mixture was cooled, diluted with CH2Cl2 and washed with water (2×) and saturated NaCl solution before being dried over Mg2SO4. Evaporation of the solvent left an oil which was subjected to chromatography on a column of silica gel. Elution with a mixture of hexanes and ethyl acetate (4:1) afforded the title compound (41.49 g, 97%) as an oil. IR (film) 1760, 1730 (CO2R) cm-1 ; 1H NMR (CDCl3) δ1.28 to 1.36 (4H, overlapping triplets, OCH2CH3), 1.37 and 1.47 (18H, singlets, C(CH3)3), 4.30 and 4.50 (4H, singlets, OCH2CO2tBu), 4.33 (2H, q, J=7Hz, OCH2CH3 of one isomer), 4.41 (2H, q, J=7Hz, OCH2CH3 of other isomer), 6.70 to 7.70 (29H, m, aromatic H+1 olefinic H), 8.07 (1H, s, olefinic H of (E) isomer); MS m/z 526 (MH+).

reactant | ethyl 4,5-diphenyl-2-oxazoleacetate | 81 mmol, 25.00 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC(=O)OCC | C19H17NO3
reactant | 1,1-dimethylethyl(3-formylphenoxy)acetate | 81 mmol, 19.22 g | CC(C)(C)C(C(=O)[O-])OC1=CC(=CC=C1)C=O
reactant | piperidine | 8 mmol, 0.69 g | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (Z)-Ethyl α-[[3-[[(1,1-dimethylethoxy) carbonyl]methoxyl]phenyl]methylene]-4,5-diphenyl-2-oxazoleacetate | 41.49 g, 97% | CC(C)(OC(=O)COC=1C=C(C=CC1)\C=C(/C(=O)OCC)\C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C | C32H31NO6
